US09290530B2
One-Pot Two-Enzyme Preparative-Scale Synthesis of Pentasaccharide 3′″-sLNnT Neu5Acα2-3Galβ1-4GlcNAcβ1-3Galβ1-4Glc. To prepare the pentasaccharide, a reaction mixture in Tris-HCl buffer (100 mM, pH 8.5) in a total volume of 8 mL containing LNnT (100 mg, 0.14 mmol), Neu5Ac (65 mg, 0.21 mmol), CTP (119 mg, 0.21 mmol), MgCl2 (20 mM), NmCSS (2.0 mg), and PmST1 M144D (1.5 mg) was incubated in a shaker at 37° C. for 48 hrs. The reaction was monitored by TLC (n-PrOH:H2O:NH4OH=4:2:1 by volume and detected by p-anisaldehyde sugar stain) and mass spectrometry. When an optimal yield was achieved, the reaction mixture was added with the same volume (8 mL) of ethanol and incubated at 4° C. for 30 min. The precipitates were removed by centrifugation and the supernatant was concentrated and purified by a Bio-Gel P-2 gel column (water was used as an eluent). Further purification was achieved by silica gel chromatography (EtOAc:MeOH:H2O=5:3:2 by volume) to produce Neu5Acα2-3Galβ1-4GlcNAcβ1-3Galβ1-4Glc (138 mg, 98%). 1H NMR (800 MHz, D2O) δ 5.16 (d, J=3.2 Hz, 0.4H), 4.65 (d, J=8.0 Hz, 0.4H), 4.64 (d, J=8.0 Hz, 0.6H), 4.60 (d, J=8.0 Hz, 0.6H), 4.50 (d, J=8.0 Hz, 1H), 4.38 (d, J=8.0 Hz, 1H), 4.10 (d, J=3.2 Hz, 1H), 4.06 (dd, J=3.2 and 9.6 Hz, 1H), 3.91-3.21 (m, 29H), 2.70 (dd, J=4.8 and 12.8 Hz, 1H), 1.97 (s, 6H), 1.74 (t, J=12.0 Hz, 1H). 13C NMR (200 MHz, D2O) β-isomer: δ 174.86, 174.77, 173.76, 102.78, 102.69, 102.38, 99.65, 95, 59, 81.90, 78.08, 77.77, 75.29, 75.00, 74.73, 74.37, 74.17, 73.59, 72.70, 71.96, 71.60, 71.22, 70.93, 69.81, 69.21, 68.20, 67.88, 67.28, 62.37, 60.87, 59.85, 59.72, 59.61, 56.03, 51.58, 39.92, 22.02, 21.89. HRMS (ESI) m/z calculated for C37H61N2O29 (M−H) 997.3360, found 997.3364.

reactant | LNnT | 0.14 mmol, 100 mg | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1O[C@H]2[C@H]([C@H](O[C@H]([C@@H]2O)O[C@@H]3[C@H](OC([C@@H]([C@H]3O)O)O)CO)CO)O)CO)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)O | C26H45NO21
reactant | Neu5Ac | 0.21 mmol, 65 mg | OC(=O)C1(O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C11H19NO9
reactant | MgCl2 | 20 mM | [Mg+2].[Cl-].[Cl-]
reactant | NH4OH | [NH4+].[OH-]
solvent | Tris-HCl | 100 mM, pH 8.5 | C(C(CO)(CO)N)O.Cl
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | H2O | O | H2O
solvent | n-PrOH | C(CC)O | C3H8O
product | Neu5Acα2-3Galβ1-4GlcNAcβ1-3Galβ1-4Glc | 138 mg, 98% | OC(=O)[C@@]1(O[C@@H]2[C@H]([C@H](O[C@H]3[C@@H]([C@H]([C@H](O[C@@H]4[C@H]([C@H](O[C@H]5[C@@H]([C@H](C(O)O[C@@H]5CO)O)O)O[C@@H]([C@@H]4O)CO)O)O[C@@H]3CO)NC(=O)C)O)O[C@@H]([C@@H]2O)CO)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C37H62N2O29
